US07005432B2
5-(8-Fluoro-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine
The title compound, MS: m/e=319 (M+H+), was prepared from 8-fluoro-naphthalene-2-boronic acid and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 8-fluoro-naphthalene-2-boronic acid | FC=1C=CC=C2C=CC(=CC12)B(O)O | C10H8BFO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(8-Fluoro-naphthalen-2-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | FC=1C=CC=C2C=CC(=CC12)C=1C=C(N=NC1)CN1C(=NC=C1)C | C19H15FN4
